US06613770B1
3-(4-Isopropyl-piperazin-1-ylmethyl)-2-phenyl-quinoline-4-carboxylic Acid Methyl Ester
7.8 g of crude 3-bromomethyl-2-phenyl-quinoline-4-carboxylic acid methyl ester (compound of Description 2) were dissolved, under nitrogen atmosphere, in 130 ml of dry THF. The solution was cooled to 10° C. and 2.8 g (21.6 mmol) of 1-isopropylpiperazine, dissolved in 20 ml of THF, were added dropwise. The reaction mixture was allowed to warm to room temperature and stirred overnight. Salts were filtered off and the filtrate was evaporated in vacuo to dryness, taken up with 2 N HCl and washed with EtOAc; the aqueous layer was basified with 10% NaOH and extracted with CH2Cl2. The organic layer was dried over Na2SO4, filtered and evaporated in vacuo to dryness to obtain a crude material which was purified by flash column chromatography on 230-400 mesh silica gel, utilising a mixture of Et2O/iPr2O 70:30 containing 0.3% ammonium hydroxide (28%). 3.8 g of the title compound were recovered as a yellow solid.

reactant | 3-bromomethyl-2-phenyl-quinoline-4-carboxylic acid methyl ester | 7.8 g | COC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)CBr | C18H14BrNO2
reactant | 1-isopropylpiperazine | 21.6 mmol, 2.8 g | C(C)(C)N1CCNCC1 | C7H16N2
solvent | THF | 130 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-(4-Isopropyl-piperazin-1-ylmethyl)-2-phenyl-quinoline-4-carboxylic Acid Methyl Ester | COC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)CN1CCN(CC1)C(C)C | C25H29N3O2
